US09403798B2
(R)-1-(4-Fluorobenzyl)pyrrolidin-3-amine hydrochloride
To a chloroform solution (2 mL) of tert-butyl (R)-pyrrolidin-3-yl-carbamate (500 mg, 2.68 mmol), 4-fluorobenzyl bromide (329 μL, 2.68 mmol) was added and the resultant solution was stirred at room temperature for 1 day. Subsequently, 4 M hydrogen chloride/1,4-dioxane solution (2 mL) was added to the reaction solution and the resultant mixture was stirred for 1 day. After completion of the reaction, solidified product was collected by filtration and dried under reduced pressure to obtain a crude product of the title compound.

reactant | tert-butyl (R)-pyrrolidin-3-yl-carbamate | 2.68 mmol, 500 mg | N1C[C@@H](CC1)NC(OC(C)(C)C)=O | C9H18N2O2
reactant | 4-fluorobenzyl bromide | 2.68 mmol, 329 μL | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | hydrogen chloride 1,4-dioxane | 4 M, 2 mL | Cl.O1CCOCC1
solvent | chloroform | 2 mL | C(Cl)(Cl)Cl | CHCl3
product | (R)-1-(4-Fluorobenzyl)pyrrolidin-3-amine hydrochloride | Cl.FC1=CC=C(CN2C[C@@H](CC2)N)C=C1 | InChI=1S/C11H15FN2.ClH/c12-10-3-1-9(2-4-10)7-14-6-5-11(13)8-14;/h1-4,11H,5-8,13H2;1H/t11-;/m1./s1
